US08563575B2
Tetrabutylammonium fluoride (0.566 mL) was added to a solution of 1-ethyl-7-methyl-3-(4-{[tris(1-methylethyl)silyl]oxy}phenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one 4-oxide (250 mg) in THF (5 mL) at room temperature. The mixture was stirred at room temperature under a dry atmosphere (CaCl2 tube) for 30 min. The reaction mixture was concentrated in vacuo. The residue was purified by column chromatography (silica gel, eluted with 0%-100% EtOAc in hexane) to give 1-ethyl-3-(4-hydroxyphenyl)-7-methyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one 4-oxide (170 mg) as a colorless solid. 3-Methyl-2-(methylsulfonyl)-3H-imidazo[4,5-b]pyridine (126 mg) was added to a solution of 1-ethyl-3-(4-hydroxyphenyl)-7-methyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one 4-oxide (170 mg) and NaH (23.83 mg) in DMA (1 mL) at room temperature. The mixture was stirred at 150° C. under a dry atmosphere (CaCl2 tube) for 30 min. The reaction mixture was concentrated in vacuo. The residue was purified by column chromatography (NH silica gel, eluted with 50%-100% EtOAc in hexane) to give 1-ethyl-7-methyl-3-{4-[(3-methyl-3H-imidazo[4,5-b]pyridin-2-yl)oxy]phenyl}-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one 4-oxide as colorless crystals.

reactant | Tetrabutylammonium fluoride | 0.566 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 1-ethyl-7-methyl-3-(4-{[tris(1-methylethyl)silyl]oxy}phenyl)-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one 4-oxide | 250 mg | C(C)N1C(N(C2=[N+](C=CC(=C21)C)[O-])C2=CC=C(C=C2)O[Si](C(C)C)(C(C)C)C(C)C)=O | C24H35N3O3Si
reactant | CaCl2 | [Cl-].[Cl-].[Ca+2]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-ethyl-3-(4-hydroxyphenyl)-7-methyl-1,3-dihydro-2H-imidazo[4,5-b]pyridin-2-one 4-oxide | 170 mg | C(C)N1C(N(C2=[N+](C=CC(=C21)C)[O-])C2=CC=C(C=C2)O)=O | C15H15N3O3
